US07435837B2
Treatment of (±)-[7-(2-chlorophenyl)-5-fluoro-2,3-dihydro-1-benzofuran-2-yl]methyl 4-methylbenzenesulfonate (6.65 g, 0.015 mol) with sodium azide (3.99 g, 0.061 mol) generally according to the procedure described for Intermediate 98 afforded (±)-2-(azidomethyl)-7-(2-chlorophenyl)-5-fluoro-2,3-dihydro-1-benzofuran. Treatment of the azide with triphenylphosphine (4.18 g, 0.16 mol) generally according to the procedure described for Example 21 provided 3.37 g (70%) of (±)-1-[7-(2-chlorophenyl)-5-fluoro-2,3-dihydro-1-benzofuran-2-yl]methanamine as a white solid, hydrochloride salt. mp >250° C. (dec); Anal. calcd. for C15H13ClFNOHCl: C, 57.34; H, 4.49; N, 4.46. Found: C, 57.45; H, 4.75; N, 4.22.

reactant | (±)-[7-(2-chlorophenyl)-5-fluoro-2,3-dihydro-1-benzofuran-2-yl]methyl 4-methylbenzenesulfonate | 0.015 mol, 6.65 g | CC1=CC=C(C=C1)S(=O)(=O)OCC1OC2=C(C1)C=C(C=C2C2=C(C=CC=C2)Cl)F | C22H18ClFO4S
reactant | sodium azide | 0.061 mol, 3.99 g | [N-]=[N+]=[N-].[Na+]
reactant | (±)-2-(azidomethyl)-7-(2-chlorophenyl)-5-fluoro-2,3-dihydro-1-benzofuran | N(=[N+]=[N-])CC1OC2=C(C1)C=C(C=C2C2=C(C=CC=C2)Cl)F | C15H11ClFN3O
reactant | azide | [N-]=[N+]=[N-]
reactant | triphenylphosphine | 0.16 mol, 4.18 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
product | (±)-1-[7-(2-chlorophenyl)-5-fluoro-2,3-dihydro-1-benzofuran-2-yl]methanamine | 3.37 g, 70% | ClC1=C(C=CC=C1)C1=CC(=CC=2CC(OC21)CN)F | C15H13ClFNO
